US06992087B2
N-[(1E)-phenylmethylidene]-1-propyl-1H-imidazol-2-amine
To a solution of N-[(1E)-phenylmethylidene]-1H-imidazol-2-amine (1.00 g, 5.84 mmol) in DMF (20 mL) was added KOt-Bu (0.80 g, 7.13 mmol) and 1-iodopropane (0.63 mL, 6.46 mmol). After 3.5 h, the reaction was diluted with water (50 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40M) with heptanes/EtOAc (2:1) to give 1.12 g (90%) of yellow liquid: 1H NMR (400 MHz, CDCl3) δ 9.23, 7.94, 7.47, 7.02, 6.94, 4.14, 1.83, 0.95; IR (liq.) 2966, 2935, 2876, 1612, 1576, 1509, 1477, 1450, 1313, 1282, 1150, 761, 738, 716, 690 cm−1; HRMS (FAB) calcd for C13H15N3+H 214.1344, found 214.1336.

reactant | N-[(1E)-phenylmethylidene]-1H-imidazol-2-amine | 5.84 mmol, 1.00 g | C1(=CC=CC=C1)\C=N\C=1NC=CN1 | C10H9N3
reactant | KOt-Bu | 7.13 mmol, 0.80 g | CC(C)(C)[O-].[K+]
reactant | 1-iodopropane | 6.46 mmol, 0.63 mL | ICCC | C3H7I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-[(1E)-phenylmethylidene]-1-propyl-1H-imidazol-2-amine | 1.12 g, 90% | C1(=CC=CC=C1)\C=N\C=1N(C=CN1)CCC | C13H15N3
